USH0002007H1
A stirred solution of 2.5 grams (0.009 mole) of (2-chlorophenyl)(4-chlorophenyl)methyl chloride, 1.6 grams (0.010 mole) of ethyl 1-piperazine-carboxylate, 1.4 mL (0.010 mole) of triethylamine, and 1.2 grams (0.008 mole) of sodium iodide in 25 mL of toluene was heated at reflux for about 18 hours. The resulting precipitate was collected by filtration. The filtrate was cooled to ambient temperature and 200 mL of aqueous saturated sodium bicarbonate solution was added to it. The mixture was extracted with two 100 mL portions of ethyl acetate. The combined ethyl acetate layers were washed with two 25 mL portions of an aqueous saturated sodium chloride solution. The organic layer was dried with sodium sulfate and concentrated under reduced pressure, yielding 3.2 grams of crude material. The crude material was subjected to column chromatography on silica gel with 50-25% hexane in methylene chloride, followed by pure methylene chloride, as eluants. The product-containing fractions were combined and concentrated under reduced pressure, yielding 1.0 gram of N-(ethoxycarbonyl)-N′-[(2-chlorophenyl)(4-chlorophenyl)methyl]piperazine. The NMR spectrum was consistent with the proposed structure.

reactant | (2-chlorophenyl)(4-chlorophenyl)methyl chloride | 0.009 mole, 2.5 grams | ClC1=C(C=CC=C1)C(C1=CC=C(C=C1)Cl)Cl | C13H9Cl3
reactant | ethyl 1-piperazine-carboxylate | 0.010 mole, 1.6 grams | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | triethylamine | 0.010 mole, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 0.008 mole, 1.2 grams | [I-].[Na+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | N-(ethoxycarbonyl)-N′-[(2-chlorophenyl)(4-chlorophenyl)methyl]piperazine | 1.0 gram | C(C)OC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C20H22Cl2N2O2
